US05668146
To a solution of bis(4(2-quinolylmethoxy)phenyl ketone (1.25 g, 2.5 mmol), prepared as in step 1, in THF/CH3OH (1:1, 60 mL) at room temperature was added NaBH4 (0.37 g, 10 mmol) and the mixture was refluxed for 3 hours, concentrated in vacuo, suspended in water and neutralized with citric acid. The resulting precipitate was collected by filtration, washed with 20% Et2O/hexane and dried in vacuo to afford bis(4-(2-quinolylmethoxy)phenyl)methanol (1.1 g, 88%) as white solid.

reactant | 4(2-quinolylmethoxy)phenyl ketone | 2.5 mmol, 1.25 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C33H24N2O3
reactant | NaBH4 | 10 mmol, 0.37 g | [BH4-].[Na+]
solvent | THF CH3OH | 60 mL | C1CCOC1.CO
product | bis(4-(2-quinolylmethoxy)phenyl)methanol | 1.1 g, 88% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C33H26N2O3
